US08461179B1
A solution of ˜80% pure 2-(bromomethyl)-1-fluoro-4-nitrobenzene (0.956 g, 3.27 mmol) in THF (10 mL) was added slowly drop-wise to a −20° C. solution of 1-methylpiperazine (0.393 g, 3.92 mmol) and DIEA (1.142 mL, 6.54 mmol) in THF (20 mL), the mixture allowed to warm slowly to RT and stirred overnight. The resulting solid was removed via filtration and the filtrate was concentrated to dryness and purified via silica gel chromatography (EtOAc, MeOH/DCM) to afford 1-(2-fluoro-5-nitrobenzyl)-4-methylpiperazine (577 mg, 70% yield). 1H NMR (400 MHz, DMSO-d6): δ 8.28 (dd, J=6.2, 3.0 Hz, 1H), 8.21 (ddd, J=9.0, 4.4, 3.0 Hz, 1H), 7.47 (t, J=9.1 Hz, 1H), 3.60 (s, 2H), 2.48-2.25 (br m, 8H), 2.14 (s, 3H); MS (ESI) m/z: 254.1 [M+H]+.

reactant | 2-(bromomethyl)-1-fluoro-4-nitrobenzene | 3.27 mmol, 0.956 g | BrCC1=C(C=CC(=C1)[N+](=O)[O-])F | C7H5BrFNO2
reactant | 1-methylpiperazine | 3.92 mmol, 0.393 g | CN1CCNCC1 | C5H12N2
reactant | DIEA | 6.54 mmol, 1.142 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-(2-fluoro-5-nitrobenzyl)-4-methylpiperazine | 577 mg, 70% yield | FC1=C(CN2CCN(CC2)C)C=C(C=C1)[N+](=O)[O-] | C12H16FN3O2
